### PR TITLE
chore: adaptations for nightly-2025-03-11

### PR DESCRIPTION
**Pull request by jcommelin**

### CODE REVIEW

File: Mathlib/Data/Finset/Density.lean [hunk 1]
```diff
@@ -67,11 +67,15 @@ lemma dens_eq_card_div_card (s : Finset α) : dens s = s.card / Fintype.card α
 @[simp] lemma dens_singleton (a : α) : dens ({a} : Finset α) = (Fintype.card α : ℚ≥0)⁻¹ := by
   simp [dens]
 
+#adaptation_note
+/-- Remove `_root_.` before merging. -/
 @[simp] lemma dens_cons (h : a ∉ s) : (s.cons a h).dens = dens s + (Fintype.card α : ℚ≥0)⁻¹ := by
-  simp [dens, add_div]
+  simp [dens, _root_.add_div]
```
Comment (jcommelin) [inline Mathlib/Data/Finset/Density.lean:73]: Something must have gone with the automatic merge.

But I'll have lunch first
